US04246181
0.02 mole (0.246 g) 3-amino-6-methyl phenol is dissolved in 30 cc water to which 5 cc ammonia 22° Be' were added. To this solution there is added 0.02 mole (0.332 g) 2,5-dimethoxy benzoquinone diimine from the first stage in solution in 60 cc water. The mixture is agitated for 20 minutes. Thereafter the reaction mixture is filtered off, yielding 0.125 g of said indoaniline which exhibits a melting point of 104°.

reactant | 3-amino-6-methyl phenol | 0.02 mole, 0.246 g | NC=1C=C(C(=CC1)C)O | C7H9NO
reactant | 2,5-dimethoxy benzoquinone diimine | 0.02 mole, 0.332 g | COC=1C(C=C(C(C1)=N)OC)=N | C8H10N2O2
solvent | water | 30 cc | O | H2O
solvent | ammonia | 5 cc | N | H3N
solvent | water | 60 cc | O | H2O
product | indoaniline | 0.125 g | C1=CC(=O)C=CC1=NC2=CC=C(C=C2)N | C12H10N2O
